US08710100B2
A solution of potassium hydroxide (2.0 g, 35.9 mol) in water (25 ml) was added to a stirred solution of methyl 2-methoxy-3-(3-nitrophenyl)acrylate (8.1 g, 34.2 mmol) in methanol (150 ml) and the resulting mixture was stirred at RT overnight. A further quantity of KOH (0.5 g, 8.9 mmol) in water (10 ml) was added and the mixture heated to 80° C. for 1 hr. The methanol was then evaporated in vacuo and the residue diluted with water (200 ml). The solution was washed with dichloromethane (2×100 ml), filtered through a pad of celite and then acidified by the addition of 3M HCl to pH 3. The mixture was refrigerated for 18 h then the precipitated solid was collected by filtration, washed with water (3×30 ml) and dried in vacuo at 40° C. to give 2-methoxy-3-(3-nitrophenyl)acrylic acid as a yellow solid (6.4 g, 84%).

reactant | potassium hydroxide | 35.9 mol, 2.0 g | [OH-].[K+]
reactant | methyl 2-methoxy-3-(3-nitrophenyl)acrylate | 34.2 mmol, 8.1 g | COC(C(=O)OC)=CC1=CC(=CC=C1)[N+](=O)[O-] | C11H11NO5
reactant | KOH | 8.9 mmol, 0.5 g | [OH-].[K+]
solvent | water | 25 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-methoxy-3-(3-nitrophenyl)acrylic acid | 6.4 g, 84% | COC(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C10H9NO5
